US05039781
Preparation of N-(2-hydroxyethyl)-4-hydroxy-3,5-dimethylbenzamide
A 270 g quantity of methyl 4-hydroxy-3,5-dimethylbenzoate is heated in 300 ml of ethanolamine for 6 hours at a bath temperature of 160° C. while simultaneously removing the methanol which forms by distillation. The excess ethanolamine is removed under vacuum. The glassy product is ground, screened (1 mm screen), and dried thoroughly at 0.5 torr and 60° C. for a yield of 307 g.

reactant | methyl 4-hydroxy-3,5-dimethylbenzoate | OC1=C(C=C(C(=O)OC)C=C1C)C | C10H12O3
reactant | ethanolamine | 300 ml | C(O)CN | C2H7NO
product | N-(2-hydroxyethyl)-4-hydroxy-3,5-dimethylbenzamide | OCCNC(C1=CC(=C(C(=C1)C)O)C)=O | C11H15NO3
